US07776857B2
1,6-naphthyridin-4-ol (0.530 g, 3.63 mmol) was dissolved in phosphorus oxychloride (4.06 ml, 43.5 mmol) and heated at reflux for 14 h. Excess POCl3 was removed under reduced pressure and the mixture was azeotroped with toluene. The resultant gum was treated with sat. NaHCO3 until no gas was generated. The mixture was extracted with EtOAc, the combined extracts were washed with sodium bicarbonate and the solvent was removed under reduced pressure. The crude product was purified via column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-90% EtOAc/DCM) to afford 4-chloro-1,6-naphthyridine as a white solid.

reactant | 1,6-naphthyridin-4-ol | 3.63 mmol, 0.530 g | N1=CC=C(C2=CN=CC=C12)O | C8H6N2O
reactant | phosphorus oxychloride | 43.5 mmol, 4.06 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-1,6-naphthyridine | ClC1=CC=NC2=CC=NC=C12 | C8H5ClN2
